US07576116B2
Synthesis of the 1,1,1-Trifluoro-4-hydroxy-4-phenanthren-2-yl-but-3-en-2-one Precursor (step 1).
To a suspension of sodium hydride (NaH; 0.13 g, 5.4 mmol) in 5 mL of anhydrous tetrahydrofuran (THF) was added ethyl trifluoracetate (CF3COOEt; 0.64 g, 4.5 mmol) under argon. After stirring at 25° C. for 10 minutes, 2-acetylphenanthrene (1 g, 4.5 mmol) in 5 mL of THF was added dropwise to the solution. The mixture became clear and orange-hued within 30 minutes, and after stirring for an additional 2 hours, was concentrated under vacuum. The residue was suspended in water, and extracted with ethyl acetate (15 mL) twice. The organic phase was separated, dried over sodium sulfate, and concentrated to dryness under vacuum to give the product (yellow solid; 1.29 g, 90% yield). The product was used directly without further purification.

reactant | sodium hydride | 5.4 mmol, 0.13 g | [H-].[Na+]
reactant | ethyl trifluoracetate | 4.5 mmol, 0.64 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | 2-acetylphenanthrene | 4.5 mmol, 1 g | C(C)(=O)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C16H12O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | O1CCCC1 | C4H8O
product | 1,1,1-Trifluoro-4-hydroxy-4-phenanthren-2-yl-but-3-en-2-one | 90% yield | FC(C(C=C(C1=CC=2C=CC3=CC=CC=C3C2C=C1)O)=O)(F)F | C18H11F3O2
